US06133258
The reaction procedure of Example 102 was followed except that 362 mg of 2-chloronicotinoyl chloride, 156 mg of ammonium thiocyanate, 300 mg of [4-(methylamino)phenyl]acetonitrile and 7 ml of acetone were used. The product was then recrystallized from a mixture of ethanol and chloroform to obtain 347 mg of [4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]phenyl]acetonitrile.

reactant | 2-chloronicotinoyl chloride | 362 mg | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | ammonium thiocyanate | 156 mg | [S-]C#N.[NH4+]
reactant | [4-(methylamino)phenyl]acetonitrile | 300 mg | CNC1=CC=C(C=C1)CC#N | C9H10N2
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | [4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]phenyl]acetonitrile | 347 mg | CN(C=1SC2=C(C(N1)=O)C=CC=N2)C2=CC=C(C=C2)CC#N | C16H12N4OS
